US08212045B2
A sealed tube was charged with (S)-N-(5-bromo-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (0.550 g, 1.055 mmol), Pd2(dba)3 (0.06065 g, 0.1055 mmol), K3PO4 (0.5821 g, 2.742 mmol), Xantphos (0.1221 g, 0.2110 mmol), and degassed toluene (5 mL). Nitrogen was bubbled through the solution for 5 minutes. Methyl 3-mercaptopropanoate (0.1752 ml, 1.582 mmol) was added and the reaction was heated to 100° C. overnight. The reaction was cooled to ambient temperature, water was added and the reaction was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified over silica gel (50 to 100% ethyl acetate in hexanes) to afford (S)-methyl 3-(6-(3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-ylamino)-5-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-3-ylthio)propanoate (0.276 g, 0.4923 mmol, 46.67% yield) as yellow oil.

reactant | (S)-N-(5-bromo-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 1.055 mmol, 0.550 g | BrC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)OC=2C(=NN(C2C)C)C | C21H25BrN6O3S
reactant | K3PO4 | 2.742 mmol, 0.5821 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Xantphos | 0.2110 mmol, 0.1221 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Methyl 3-mercaptopropanoate | 1.582 mmol, 0.1752 ml | SCCC(=O)OC | C4H8O2S
catalyst | Pd2(dba)3 | 0.1055 mmol, 0.06065 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | (S)-methyl 3-(6-(3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-ylamino)-5-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-3-ylthio)propanoate | 0.4923 mmol, 0.276 g, 46.67% yield | O1[C@H](COC12CCCCC2)C2=NSC(=N2)NC2=C(C=C(C=N2)SCCC(=O)OC)OC=2C(=NN(C2C)C)C | C25H32N6O5S2
